US04636521
(i) N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]-N-methylmethanesulphonamide
Sodium hydride (80% in oil; 0.1 g) was added under nitrogen to a stirred solution of N-[[3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide (1.2 g) in dry dimethylformamide (16 ml). After 1 h, methyl iodide (0.75 ml) was added.

reactant | Sodium hydride | 0.1 g | [H-].[Na+]
reactant | N-[[3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide | 1.2 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C20H19N3O4S
reactant | methyl iodide | 0.75 ml | CI | CH3I
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]-N-methylmethanesulphonamide | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CN(S(=O)(=O)C)C | C21H21N3O4S
